US03989707
A mixture of 7.4 parts of 1,1-bis(-4-fluorophenyl)-4-iodobutane, 5 parts of 7-chloro-1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one, 5 parts of sodium carbonate and 56 parts of 4-methyl-2-pentanone is stirred and refluxed overnight. After cooling, the reaction mixture is poured onto water. The organic layer is separated, dried, filtered and concentrated to half its volume. From the residue, the product is allowed to crystallize. The product is filtered off and recrystallized from a mixture of 4-methyl-2-pentanone and 2-propanol, yielding 7-chloro-1-{1-[4,4-bis(4-fluorophenyl)butyl]-4-piperidinyl}-1,3-dihydro-2H-benzimidazol-2-one; mp. 215.4° C.

reactant | 1,1-bis(-4-fluorophenyl)-4-iodobutane | FC1=CC=C(C=C1)C(CCCI)C1=CC=C(C=C1)F | C16H15F2I
reactant | 7-chloro-1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one | ClC1=CC=CC2=C1N(C(N2)=O)C2CCNCC2 | C12H14ClN3O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 7-chloro-1-{1-[4,4-bis(4-fluorophenyl)butyl]-4-piperidinyl}-1,3-dihydro-2H-benzimidazol-2-one | ClC1=CC=CC2=C1N(C(N2)=O)C2CCN(CC2)CCCC(C2=CC=C(C=C2)F)C2=CC=C(C=C2)F | C28H28ClF2N3O
